US07238716B2
A mixture of 2-[2-[4-[5-methyl-2-(2-naphthyl)-4-oxazolylmethoxy]benzyloxy]-3-pyridyl]acetonitrile (700 mg), a 2N aqueous sodium hydroxide solution (20 mL) and ethanol (40 mL) was heated under reflux for 18 hours. Water was added to the reaction mixture, and the mixture was neutralized with 2N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give crystals (420 mg, 58%) of 2-[2-[4-[5-methyl-2-(2-naphthyl)-4-oxazolylmethoxy]benzyloxy]-3-pyridyl]acetic acid from a fraction eluted with acetone-hexane (2:3, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 155-156° C.

reactant | 2-[2-[4-[5-methyl-2-(2-naphthyl)-4-oxazolylmethoxy]benzyloxy]-3-pyridyl]acetonitrile | 700 mg | CC1=C(N=C(O1)C1=CC2=CC=CC=C2C=C1)COC1=CC=C(COC2=NC=CC=C2CC#N)C=C1 | C29H23N3O3
reactant | sodium hydroxide | 2N, 20 mL | [OH-].[Na+]
reactant | ethanol | 40 mL | C(C)O | C2H6O
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | Water | O | H2O
product | 2-[2-[4-[5-methyl-2-(2-naphthyl)-4-oxazolylmethoxy]benzyloxy]-3-pyridyl]acetic acid | 420 mg, 58% | CC1=C(N=C(O1)C1=CC2=CC=CC=C2C=C1)COC1=CC=C(COC2=NC=CC=C2CC(=O)O)C=C1 | C29H24N2O5
